US04041163
N-(5-tetrazolyl)-7-trifluoromethyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide;
N-(5-tetrazolyl)-7,8-dichloro-4-oxo-4H-pyrimido[2,1-b]-benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7,8-difluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-trifluoromethyl-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; N-(5-tetrazolyl)-7-fluoro-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide; and N-(5-tetrazolyl)-7-chloro-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide.

reactant | N-(5-tetrazolyl)-7,8-dichloro-4-oxo-4H-pyrimido[2,1-b]-benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)Cl)Cl | C12H5Cl2N7O2S
reactant | N-(5-tetrazolyl)-7,8-difluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)F)F | C12H5F2N7O2S
reactant | N-(5-tetrazolyl)-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=CC(=C3)F | C12H6FN7O2S
reactant | N-(5-tetrazolyl)-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=CC(=C3)Cl | C12H6ClN7O2S
reactant | N-(5-tetrazolyl)-7-trifluoromethyl-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)F)C(F)(F)F | C13H5F4N7O2S
reactant | N-(5-tetrazolyl)-7-fluoro-8-chloro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)Cl)F | C12H5ClFN7O2S
reactant | N-(5-tetrazolyl)-7-chloro-8-fluoro-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C(=C3)F)Cl | C12H5ClFN7O2S
product | N-(5-tetrazolyl)-7-trifluoromethyl-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=C(C=C3)C(F)(F)F | C13H6F3N7O2S
